US04723006
8.1 Parts of dimethylamine hydrochloride was added to a solution of 2.3 parts of sodium in 20 parts of methanol. The resulting mixture was added dropwise with stirring over about 10 minutes to a solution of 9.9 parts of 2-amino-4-chloro-6-chloromethylpyrimidine in 50 parts of methanol. The reaction was monitored by TLC and when reaction was complete the solvent was evaporated and the residue stirred with about 20 parts of water. The solid obtained was filtered and dried. The product was purified by chromatography on silica, eluted with ethyl acetate, followed by sublimation at 110° C./0.04 mb to give 2-amino-4-chloromethyl-6-dimethylaminopyrimidine m.p. 127°-129° C.

reactant | dimethylamine hydrochloride | Cl.CNC
reactant | sodium | [Na] | Na
reactant | 2-amino-4-chloro-6-chloromethylpyrimidine | NC1=NC(=CC(=N1)Cl)CCl | C5H5Cl2N3
solvent | methanol | CO | CH4O
product | 2-amino-4-chloromethyl-6-dimethylaminopyrimidine | NC1=NC(=CC(=N1)CCl)N(C)C | C7H11ClN4
